US06022969
4-Aminobenzylamine (50.34 g, 0.412 mol) in dichloromethane (200 mL) was placed in a one liter 3-neck round bottom flask fitted with mechanical stirring apparatus and the solution cooled to 0° C. di-tert-Butyl dicarbonate (89.9 g, 0.412 mol) in dichloromethane (200 mL) was added dropwise to the solution over 30 minutes and the resulting suspension was allowed to stir at 0° C. an additional two hours at which point a nearly homogeneous solution was obtained. The dichloromethane solution was subsequently washed with aqueous sodium hydroxide (1.0M, 500 mL) followed by water (500 mL) and the organic phase dried over anhydrous magnesium sulfate. Filtration followed by concentration in vacuo gave 4-amino-N-tert-butylcarbomoylbenzylamine as a yellow oil. The aniline was then taken into ethyl ether:methanol (2:1, 225 mL) and the solution cooled to 0° C. Acidification with hydrogen chloride in dioxane (4.0M, 115 mL, 0.412 mol) followed by addition of ethyl ether (200 mL) gave a thick pale yellow precipitate. Filtration followed by washing with additional ethyl ether (500 mL) and drying in vacuo provided N-tert-butyl-N'-4-aminobenzylurea hydrochloride (100.23 g, 94% yield) as a pale yellow solid which was used without further purification.

reactant | 4-Aminobenzylamine | 0.412 mol, 50.34 g | NC1=CC=C(CN)C=C1 | C7H10N2
reactant | di-tert-Butyl dicarbonate | 0.412 mol, 89.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | hydrogen chloride | Cl | ClH
reactant | dioxane | 0.412 mol, 4.0M, 115 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | ethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | ethyl ether methanol | 225 mL | C(C)OCC.CO
product | N-tert-butyl-N'-4-aminobenzylurea hydrochloride | 100.23 g, 94% yield | Cl.C(C)(C)(C)NC(=O)NCC1=CC=C(C=C1)N | InChI=1S/C12H19N3O.ClH/c1-12(2,3)15-11(16)14-8-9-4-6-10(13)7-5-9;/h4-7H,8,13H2,1-3H3,(H2,14,15,16);1H
